US09056874B2
(±)-tert-Butyl 4-(1-amino-1-(5-cyano-1H-benzo[d]imidazol-2-yl)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate
To a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate (306 mg, 0.427 mmol) was added HCl (1.25M in MeOH, 1.7 mL, 2.137 mmol) and the solution was stirred at room temperature for 90 minutes. The reaction mixture was then concentrated, diluted with sat. aq. NaHCO3, the aqueous layer was extracted with EtOAc, and the organic extract was dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (0-80% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 482.3 (M+H).

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C35H47F2N5O5SSi
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | 0.427 mmol, 306 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C35H47F2N5O5SSi
reactant | HCl | 2.137 mmol, 1.25M, 1.7 mL | Cl | ClH
product | (±)-tert-Butyl 4-(1-amino-1-(5-cyano-1H-benzo[d]imidazol-2-yl)ethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | NC(C)(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C | C25H25F2N5O3
